US08614239B2
Preparation of Intermediate 4,5-Difluoro-6-(2-fluoro-4-iodo-phenyl)-2-methyl-7-oxo-6,7-dihydro-imidazo[4′,5′:3,4]benzo[1,2-d]oxazole-8-sulfonic acid dimethylamide (I-23a)
Intermediate I-23a was prepared from 4,5-difluoro-6-(2-fluoro-4-iodo-phenyl)-2-methyl-6,8-dihydro-imidazo[4′,5′:3,4]benzo[1,2-d]oxazol-7-one (I-18a: 80 mg, 0.178 mmol), N,N-dimethylaminosulfonyl chloride (38.5 mg, 0.269 mmol), TEA (54.5 mg, 0.534 mmol) and DMAP (10 mg) using procedures analogous to those described above for Intermediate I-19a to afford the 60 mg of the product (61.2% yield). H1NMR (CDCl3, 300 MHz): δ 7.70-7.64 (m, 2H), 7.30-7.22 (m, 1H), 3.20 (s, 6H), 2.72 (s, 3H). LCMS: 70.3%, m/z=552.9 (M+1). HPLC: 81.3%.

reactant | 4,5-difluoro-6-(2-fluoro-4-iodo-phenyl)-2-methyl-6,8-dihydro-imidazo[4′,5′:3,4]benzo[1,2-d]oxazol-7-one | 0.178 mmol, 80 mg | FC1=C(C2=C(C3=C1N=C(O3)C)NC(N2C2=C(C=C(C=C2)I)F)=O)F | C15H7F3IN3O2
reactant | N,N-dimethylaminosulfonyl chloride | 0.269 mmol, 38.5 mg | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4,5-Difluoro-6-(2-fluoro-4-iodo-phenyl)-2-methyl-7-oxo-6,7-dihydro-imidazo[4′,5′:3,4]benzo[1,2-d]oxazole-8-sulfonic acid dimethylamide | 60 mg, 61.2% yield | CN(S(=O)(=O)N1C(N(C2=C1C1=C(N=C(O1)C)C(=C2F)F)C2=C(C=C(C=C2)I)F)=O)C | C17H12F3IN4O4S
